US07202364B2
A mixture of 7-chloro-2-trifluoromethyl-4-quinolinol (4 g, 16.2 mmol) in phosphorus oxychloride (7.55 mL, 81 mmol) is heated at reflux temperature for 3 hours. After cooling to room temperature, ice (200 g) is added, the mixture is neutralized with NaHCO3 and extracted with EtOAc. The organic layer is washed with brine, dried (Na2SO4) and concentrated by rotary evaporator. The resulting tan residue is purified by flash chromatography on silica gel (1% ether in hexanes) to give 4,7-dichloro-2-trifluoromethylquinoline as a solid.

reactant | 7-chloro-2-trifluoromethyl-4-quinolinol | 16.2 mmol, 4 g | ClC1=CC=C2C(=CC(=NC2=C1)C(F)(F)F)O | C10H5ClF3NO
reactant | phosphorus oxychloride | 81 mmol, 7.55 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 4,7-dichloro-2-trifluoromethylquinoline | ClC1=CC(=NC2=CC(=CC=C12)Cl)C(F)(F)F | C10H4Cl2F3N
